US05175301
2-Methoxy-5-methylaminopyridine
The reaction procedure of Reference Example 24 was repeated except that 5-amino-2-methoxypyridine was used in lieu of 5-amino-2-chloropyridine to give the title compound as a yellow oil.

reactant | 5-amino-2-methoxypyridine | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | 5-amino-2-chloropyridine | NC=1C=CC(=NC1)Cl | C5H5ClN2
product | 2-Methoxy-5-methylaminopyridine | COC1=NC=C(C=C1)NC | C7H10N2O
